US05210290
(a) 2-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]-2-hydroxymethylacetic Acid Methyl Ester
Under the conditions of Example 2(a), 3.29 g (10.93 mmol) of 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid, 1.70 g (10.93 mmol) L-serine methyl ester hydrochloride, 1.67 g (10.93 mmol) of hydroxybenzotriazole, hydrate, as well as 1.11 g (10.93 mmol) of triethylamine and 2.26 g (10.93 mmol) of dicyclohexylcarbodiimide are reacted and worked up analogously. The crude product is chromatographed on silica gel. The title compound is eluted with ethanol and crystallized upon concentration.

reactant | 2-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]acetic acid | 10.93 mmol, 3.29 g | FC1=CC(=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
reactant | L-serine methyl ester hydrochloride | 10.93 mmol, 1.70 g | Cl.COC([C@@H](N)CO)=O
reactant | hydroxybenzotriazole, hydrate | 10.93 mmol, 1.67 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 10.93 mmol, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 10.93 mmol, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-[2-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]acetylamino]-2-hydroxymethylacetic Acid Methyl Ester | COC(C(CO)NC(CS(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O)=O | C13H14F4N2O6S
